US07342118B2
2-{4-[2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester
2-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester was coupled with (S)-2-hydroxy-3,3-dimethyl-butyric acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 19.1, 26.1, 26.2, 26.3, 35.3, 35.5, 52.6, 53.3, 61.1, 79.6, 106.1, 131.9, 137.5, 169.6, 172.7, 173.1; MS 397.23 m/z (M+1).

reactant | 2-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C13H22N4O3
reactant | (S)-2-hydroxy-3,3-dimethyl-butyric acid | O[C@H](C(=O)O)C(C)(C)C | C6H12O3
product | 2-{4-[2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(C(C(C)(C)C)O)=O)=O)=O | C19H32N4O5
